US08975261B2
4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-2-methyl-5-(1-methyl-1H-pyrazol-4-yl)pyrimidine (MM4)
A mixture of 5-bromo-4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]-methoxy}-2-methylpyrimidine (MM3) (400 mg, 1.1 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (420 mg, 2.0 mmol), tripotassium phosphate (600 mg, 2.8 mmol), S-Phos (46 mg, 0.1 mmol), and Pd(OAc)2 (12.6 mg, 0.6 mmol) in THF (4.8 mL) and water (0.8 mL) was heated at 100° C. for 1 hour. The reaction mixture was allowed to cool to room temperature, and then diluted with EtOAc (10 mL), washed with sodium bicarbonate (2 mL) and brine (2 mL), dried over MgSO4, filtered and concentrated. The resulting residue was purified by reverse phase chromatography (Waters Sunfire Prep C18 OBD, 5-45% acetonitrile in water with 0.1% TFA modifier) to afford the title compound as a colorless gum. 1H NMR (500 MHz, DMSO): δ 8.73 (s, 1 H), 8.14 (s, 1 H), 8.11 (s, 1 H), 7.97 (s, 1 H), 7.31-7.24 (m, 2 H), 4.54 (dd, J=11.2, 6.8 Hz, 1 H), 4.33 (dd, J=11.3, 7.7 Hz, 1 H), 3.82 (s, 3 H), 3.78 (s, 3 H), 2.50 (s, 3 H), 2.22 (dd, J=8.6, 4.7 Hz, 1 H), 1.79 (s, 1 H), 1.22-1.17 (m, 1 H), 1.10-1.05 (m, 1 H); HRMS m/z (M+H) 352.1761 found, 352.1768 required.

reactant | 5-bromo-4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]-methoxy}-2-methylpyrimidine | 1.1 mmol, 400 mg | BrC=1C(=NC(=NC1)C)OC[C@@H]1[C@H](C1)C1=NC=C(C=C1)OC | C15H16BrN3O2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 2.0 mmol, 420 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | tripotassium phosphate | 2.8 mmol, 600 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | S-Phos | 0.1 mmol, 46 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
solvent | THF | 4.8 mL | C1CCOC1 | C4H8O
solvent | water | 0.8 mL | O | H2O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.6 mmol, 12.6 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-2-methyl-5-(1-methyl-1H-pyrazol-4-yl)pyrimidine | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC1=NC(=NC=C1C=1C=NN(C1)C)C | C19H21N5O2
